** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/TOP_ROILIFNEURON/xschem/TOP_ROILIFNEURON.sch
.subckt TOP_ROILIFNEURON VDD Vx2 RST SPIKEB2 VSS Vref2 COMPB2 Vx1 Vref1 SPIKEB1 COMPB1
*.PININFO SPIKEB1:O COMPB1:O SPIKEB2:O COMPB2:O VDD:B VSS:B Vx1:I Vref1:I Vx2:I Vref2:I RST:I
xSPKB1 VDD SPIKE1 SPIKEB1 VSS gate_buff_pad
xCOMPB1 VDD COMP1 COMPB1 VSS gate_buff_pad
* noconn MEM1
* noconn MEM2
xSPKB2 VDD SPIKE2 SPIKEB2 VSS gate_buff_pad
xCOMPB2 VDD COMP2 COMPB2 VSS gate_buff_pad
xLIF1 VDD Vx1 MEM1 RST SPIKE1 VSS Vref1 COMP1 LIF_neuron
xLIF2 VDD Vx2 MEM2 RST SPIKE2 VSS Vref2 COMP2 LIF_neuron
.ends

* expanding   symbol:  ihp-sg13g2/gate_buff_pad/xschem/gate_buff_pad.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_pad/xschem/gate_buff_pad.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_pad/xschem/gate_buff_pad.sch
.subckt gate_buff_pad VDD VIN VOUT VSS
*.PININFO VDD:I VIN:I VSS:I VOUT:O
MN1 X VIN VSS VSS sg13_lv_nmos w=4.8u l=0.13u ng=1
MP1 X VIN VDD VDD sg13_lv_pmos w=9.6u l=0.13u ng=1
MN2 Y X VSS VSS sg13_lv_nmos w=4.8u l=0.13u ng=1 m=4
MP2 Y X VDD VDD sg13_lv_pmos w=9.6u l=0.13u ng=1 m=4
MN3 Z Y VSS VSS sg13_lv_nmos w=4.8u l=0.13u ng=1 m=16
MP3 Z Y VDD VDD sg13_lv_pmos w=9.6u l=0.13u ng=1 m=16
MN4 VOUT Z VSS VSS sg13_lv_nmos w=4.8u l=0.13u ng=1 m=64
MP4 VOUT Z VDD VDD sg13_lv_pmos w=9.6u l=0.13u ng=1 m=64
.ends


* expanding   symbol:  ihp-sg13g2/LIF_neuron/xschem/LIF_neuron.sym # of pins=8
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/LIF_neuron/xschem/LIF_neuron.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/LIF_neuron/xschem/LIF_neuron.sch
.subckt LIF_neuron VDD Vx MEM RST SPIKE VSS Vref COMP
*.PININFO VDD:B VSS:B MEM:O Vx:I Vref:I SPIKE:O RST:I COMP:O
xINT Vref VSS VDD INT_RST Vx MEM integrator
xSPK VDD COMP SPIKE INT_RST RST VSS spike_generator
xRES VDD MEM Vx resistence_bank
xCOMP VDD MEM COMP VSS threshold_comparator
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator/xschem/integrator.sym # of pins=6
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator/xschem/integrator.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator/xschem/integrator.sch
.subckt integrator Vref VSS VDD RST Vctr VOUT
*.PININFO VSS:I Vref:I Vctr:I VDD:I RST:I VOUT:O
xIP0 VDD VctrPP P0 P1 Vctr VSS RST integrator_curstav_inv
xIP1 VDD VctrPP P1 P2 Vctr VSS VSS integrator_curstav_inv
xIP2 VDD VctrPP P2 P3 Vctr VSS RST integrator_curstav_inv
xIP3 VDD VctrPP P3 P4 Vctr VSS VSS integrator_curstav_inv
xIP4 VDD VctrPP P4 P0 Vctr VSS RST integrator_curstav_inv
xPD0 VDD R1 VOUT P1 VSS integrator_phasedetector
xPD1 VDD R2 VOUT P2 VSS integrator_phasedetector
xPD2 VDD R3 VOUT P3 VSS integrator_phasedetector
xPD3 VDD R4 VOUT P4 VSS integrator_phasedetector
xPD4 VDD R0 VOUT P0 VSS integrator_phasedetector
M1 VctrPP Vctr VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
M3 VctrPP VctrPP VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M2 VctrPR VctrPR VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M4 VctrPR Vref VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
xIR0 VDD VctrPR R0 R1 Vref VSS RST integrator_curstav_inv
xIR1 VDD VctrPR R1 R2 Vref VSS VSS integrator_curstav_inv
xIR2 VDD VctrPR R2 R3 Vref VSS RST integrator_curstav_inv
xIR3 VDD VctrPR R3 R4 Vref VSS VSS integrator_curstav_inv
xIR4 VDD VctrPR R4 R0 Vref VSS RST integrator_curstav_inv
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/spike_generator/xschem/spike_generator.sym # of pins=6
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/spike_generator/xschem/spike_generator.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/spike_generator/xschem/spike_generator.sch
.subckt spike_generator VDD Vcmp Vspk Vrst Ven VSS
*.PININFO Vcmp:B Ven:B Vrst:B Vspk:B VDD:B VSS:B
xEDGE Vcmp SPK_OUT VDD VSS edge_detector
xBSPK VDD SPK_OUT Vspk VSS gate_buff_L0d13
xBRST VDD net1 Vrst VSS gate_buff_L0d13
xOR Ven VDD VSS net1 Vcmp gate_or
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/resistance_bank/resistence_bank.sym # of pins=3
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/resistance_bank/resistence_bank.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/resistance_bank/resistence_bank.sch
.subckt resistence_bank VDD MEM Vx
*.PININFO VDD:B Vx:B MEM:B
RFB0 Vx net4 rhigh w=0.5e-6 l=4e-6 m=1 b=0
RFB1 net4 net3 rhigh w=0.5e-6 l=4e-6 m=1 b=0
RFB2 net3 net2 rhigh w=0.5e-6 l=4e-6 m=1 b=0
RFB3 net2 net1 rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[7] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[6] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[5] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[4] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[3] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[2] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[1] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY1[0] VDD VDD rhigh w=0.5e-6 l=4e-6 m=1 b=0
RFB6 net1 net5 rhigh w=0.5e-6 l=4e-6 m=1 b=0
RFB7 net5 net6 rhigh w=0.5e-6 l=4e-6 m=1 b=0
RFB8 net6 net7 rhigh w=0.5e-6 l=4e-6 m=1 b=0
RFB9 net7 MEM rhigh w=0.5e-6 l=4e-6 m=1 b=0
RDMY2[7] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
RDMY2[6] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
RDMY2[5] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
RDMY2[4] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
RDMY2[3] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
RDMY2[2] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
RDMY2[1] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
RDMY2[0] VDD VDD rhigh w=0.5e-6 l=0.96e-6 m=1 b=0
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/threshold_circuit/xschem/threshold_comparator.sym # of
*+ pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/threshold_circuit/xschem/threshold_comparator.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/threshold_circuit/xschem/threshold_comparator.sch
.subckt threshold_comparator VDD Vin Vout VSS
*.PININFO VDD:B VSS:B Vin:I Vout:O
M2 Vx Vin VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=2
M1 Vx Vin VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=2
M3 Vout Vx VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=2
M4 Vout Vx VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=2
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sym #
*+ of pins=7
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_curstav_inv/xschem/integrator_curstav_inv.sch
.subckt integrator_curstav_inv VDD VcrtP A B VcrtN VSS RST
*.PININFO VDD:I VSS:I A:I B:O VcrtP:I VcrtN:I RST:I
M1 B A net2 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
M2 net2 VcrtN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
M3 B A net1 VDD sg13_lv_pmos w=2u l=0.13u ng=1
M4 net1 VcrtP VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M5 B VDD VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M6 B RST VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
.ends


* expanding   symbol:
*+  /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_phasedetector/xschem/integrator_phasedetector.sym # of pins=5
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_phasedetector/xschem/integrator_phasedetector.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/integrator_phasedetector/xschem/integrator_phasedetector.sch
.subckt integrator_phasedetector VDD A VOUT B VSS
*.PININFO A:I B:I VSS:I VDD:I VOUT:O
x1 VDD XOR B A VSS gate_xor
x2 VDD XOR BUF VSS gate_buff_L0d13
RXOR[1] BUF VOUT rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RXOR[0] BUF VOUT rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[9] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[8] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[7] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[6] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[5] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[4] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[3] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[2] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[1] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
RDMY[0] VSS VSS rppd w=0.5e-6 l=0.5e-6 m=1 b=0
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/edge_detector/xschem/edge_detector.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/edge_detector/xschem/edge_detector.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/edge_detector/xschem/edge_detector.sch
.subckt edge_detector IN OUT VDD VSS
*.PININFO VDD:B VSS:B IN:I OUT:O
xAND IN VDD VSS OUT I4 gate_and
xINV0 VDD I0 IN VSS gate_inv_L0d65
xINV1 VDD I1 I0 VSS gate_inv_L0d65
xINV2 VDD I2 I1 VSS gate_inv_L0d65
xINV3 VDD I3 I2 VSS gate_inv_L0d65
xINV4 VDD I4 I3 VSS gate_inv_L0d65
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_L0d13/xschem/gate_buff_L0d13.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_L0d13/xschem/gate_buff_L0d13.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_buff_L0d13/xschem/gate_buff_L0d13.sch
.subckt gate_buff_L0d13 VDD VIN VOUT VSS
*.PININFO VDD:I VIN:I VSS:I VOUT:O
M1 net1 VIN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
M2 net1 VIN VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M3 VOUT net1 VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1 m=3
M4 VOUT net1 VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1 m=3
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_or/xschem/gate_or.sym # of pins=5
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_or/xschem/gate_or.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_or/xschem/gate_or.sch
.subckt gate_or B VDD VSS OUT A
*.PININFO OUT:O A:I VDD:B VSS:B B:I
MNB OUTN B VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
MNA OUTN A VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
MPA X A VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
MPB OUTN B X VDD sg13_lv_pmos w=2u l=0.13u ng=1
MNI OUT OUTN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
MPI OUT OUTN VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_xor/xschem/gate_xor.sym # of pins=5
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_xor/xschem/gate_xor.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_xor/xschem/gate_xor.sch
.subckt gate_xor VDD S B A VSS
*.PININFO VSS:I B:I A:I VDD:I S:O
M2 net1 A VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M1 S -B net1 VDD sg13_lv_pmos w=2u l=0.13u ng=1
M4 net2 -A VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M5 S B net2 VDD sg13_lv_pmos w=2u l=0.13u ng=1
M6 S B net4 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
M3 net4 A VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
M7 S -B net3 VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
M8 net3 -A VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
x3 VDD A -A VSS gate_inv_L0d13
x1 VDD B -B VSS gate_inv_L0d13
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_and/xschem/gate_and.sym # of pins=5
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_and/xschem/gate_and.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_and/xschem/gate_and.sch
.subckt gate_and B VDD VSS OUT A
*.PININFO OUT:O A:I VDD:B VSS:B B:I
MNB OUTN B NX VSS sg13_lv_nmos w=1u l=0.13u ng=1
MNA NX A VSS VSS sg13_lv_nmos w=1u l=0.13u ng=1
MPB OUTN B VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
MPA OUTN A VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
MNI OUT OUTN VSS VSS sg13_lv_nmos w=1u l=0.13u ng=1
MPI OUT OUTN VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d65/xschem/gate_inv_L0d65.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d65/xschem/gate_inv_L0d65.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d65/xschem/gate_inv_L0d65.sch
.subckt gate_inv_L0d65 VDD B A VSS
*.PININFO B:O A:I VDD:B VSS:B
MN B A VSS VSS sg13_lv_nmos w=1u l=0.65u ng=1
MP B A VDD VDD sg13_lv_pmos w=2u l=0.65u ng=1
.ends


* expanding   symbol:  /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sym # of pins=4
** sym_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sym
** sch_path: /foss/designs/chipathon_2025/designs/ihp-sg13g2/gate_inv_L0d13/xschem/gate_inv_L0d13.sch
.subckt gate_inv_L0d13 VDD VIN VOUT VSS
*.PININFO VDD:I VSS:I VIN:I VOUT:O
M2 VOUT VIN VDD VDD sg13_lv_pmos w=2u l=0.13u ng=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=1.0u l=0.13u ng=1
.ends

